US07250442B2
1-Benzyl-3-hydroxy-3-phenyl-1,3-dihydro-indol-2-one
Combine 3-hydroxy-3-phenyl-1,3-dihydro-indol-2-one (225 mg, 1 mmol) and cesium carbonate (977 mg, 3 mmol) in 2-butanone (5 mL). Add benzyl bromide (0.13 mL, 1 mmol) and heat at 60° C. for 3 h. with vigorous stirring. Dilute the reaction with water and wash with ethyl acetate (2×). Wash combined organic portions with brine and then dry (MgSO4), filter and concentrate in vacuo to give an oil. Purify with radial chromatography (gradient of 10% EtOAc/hexanes to 25% EtOAc/hexanes) to give 204 mg (65%) of the title compound as a white solid. MS (ES): m/z=298 (M+1−H2O); 1H NMR(DMSO-d6); δ7.37-7.27 (m, 11H), 7.18 (m, 1H), 7.05 (m, 1H), 6.98 (m, 1H), 6.87 (s, 1H), 4.92 (s, 2H).

reactant | 3-hydroxy-3-phenyl-1,3-dihydro-indol-2-one | 1 mmol, 225 mg | OC1(C(NC2=CC=CC=C12)=O)C1=CC=CC=C1 | C14H11NO2
reactant | cesium carbonate | 3 mmol, 977 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | benzyl bromide | 1 mmol, 0.13 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | O | H2O
solvent | 2-butanone | 5 mL | CC(CC)=O | C4H8O
product | 1-Benzyl-3-hydroxy-3-phenyl-1,3-dihydro-indol-2-one | 204 mg, 65% | C(C1=CC=CC=C1)N1C(C(C2=CC=CC=C12)(C1=CC=CC=C1)O)=O | C21H17NO2
